Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
weight loss
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with h/o CAD, HTN, gout, 
dementia, skin cancer, BPH presented to his ___ clinic today 
with progresive weakness, fatigue, and recent history of melena 
(2 black stools ~10 and ~7 days ago). Pt has had ___ pound 
weight loss since ___ and ___ episodes mid-abdominal pain 
over that time period as well.  He also endorses early satiety,  
decreased appetite, and intermittent constipation.  He was 
recently treated by his PCP with ___ laxative and stool softener 
for constipation.  He also had diarrhea several weeks and 
attributed it to the "stomach flu."  It subsequently resolved.  
He has never had a colonoscopy or any type of gastrointestinal 
problems in the past. When he presented to his PCP today, he was 
slightly postural BP was 122/___nd 102/50 standing.  
About ___ years ago, he had a syncopal episode which was 
attributed to Flomax, which has been discontinued; he was ___ 
dehydrated at that time. 
.
In the ED, the patient's vitals were 98.5, BP 150/53, HR 72, O2 
Sat 97% RA.  The patient was guaiac negative in the ED.  PCP 
requests EGD.  
.
ROS: As per HPI.  Denies any chest pain, shortness of breath, or 
palpitations.  Denies headaches or change in bladder habits 
(urinates 2X per night at baseline).
.
 
Past Medical History:
1. 5-vessel bypass (___)
2. Gout
3. Benign prostatic hypertrophy
4. Hypertension
5. Coronary artery disease
6. Skin cancer- BCC L cheek ; s/p MOHS surgery
7. Hyperlipidemia
 
Social History:
___
Family History:
Father: MI (died at ___)
Mother: ___ obstruction (died at ___)
5 siblings: (3 deceased) 
Sister- breast cancer, brother- heart disease.  2 siblings also 
have bipolar illness and Alzheimer's disease.
 
Physical Exam:
VS: Wt. 177 lbs P 82 BP 160/60 T 96.6 O2 Sat 97% RA; 6 feet 
tall, weight: 177 pounds
GENERAL APPEARANCE:  He looks comfortable, in no apparent 
distress. Masking of face and a mild tremor (baseline).
LUNGS:  Clear to ascultation bilaterally.  No rales, rhonchi, or 
wheezes.
HEENT: PERRLA, EOMI, OP without lesions, mucosa moist.  Good 
dentition. 
NECK:  No thyromegaly.  No carotid bruits.
HEART: Irregular rhythm.  No murmurs, rubs, or gallops.
ABDOMEN:  NTND, +BS
EXTREMITIES:  No edema. Intact peripheral pulses.
NEUROLOGIC:   CN ___ intact except for mild palsy of right 
eyebrow on facial nerve exam.  LUE and LLE ___ strength; RUE and 
RLE ___.   No abnormal movements except for a very mild resting 
tremor (L>R hand). 
 
Pertinent Results:
LABS ON ADMISSION:
___ 11:45AM   WBC-12.0 RBC-4.10 HGB-12.6 HCT-37.4 MCV-91 
MCH-30.8 MCHC-33.7 RDW-14.8
___ 11:42PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:42PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 11:45AM    SODIUM-145 POTASSIUM-3.7 UREA N-25 CREAT-1.4 
CHLORIDE-107 TOTAL CO2-26 GLUCOSE-101 
___ 11:45AM   ALT(SGPT)-16 AST(SGOT)-22 ALK PHOS-79 
AMYLASE-60 TOT BILI-0.6
___ 11:45AM   ALBUMIN-4.2 CALCIUM-9.0 PHOSPHATE-3.0 
MAGNESIUM-2.5
___ 11:45AM   NEUTS-79.2 ___ MONOS-5.6 EOS-0.5 
BASOS-0.7
___ 11:45AM   ___ PTT-21.9 ___
___ 11:45AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:45AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 11:45AM URINE  ___ BACTERIA-FEW YEAST-NONE 
___ 11:45AM URINE  ___ 11:45AM URINE  MUCOUS-FEW
.
LABS ON DISCHARGE:
___   SODIUM-141 POTASSIUM-3.5 UREA N-18 CREAT-1.1 
CHLORIDE-109 TOTAL CO2-24 GLUCOSE-85
___  WBC-4.8 HGB-10.7 HCT-31.0 PLT- 147
.
.
___ Chest Radiograph
FINDINGS:
On today's examination, there is a more localized consolidation 
seen in the left posterior costophrenic angle. Another smaller 
alveolar-like consolidation is seen in the left mid lung region. 
Persistent discoid atelectasis is again seen at the left lung 
base. The right lung is clear. The patient is status post 
multiple surgeries with sternotomy wires and surgical clips. No 
hilar lymphadenopathy. There is right paratracheal opacity, 
which could represent tortuous vessels versus thyroid 
abnormality.. Further evaluation is recommended. There is no 
right or left pleural effusion. The bony structures do not show 
any abnormalities suspicious for malignancy.
IMPRESSION:
A more localized cosolidation seen in the left costophtrnic 
angle favours pneuomonia or aspiration over atelactasis
.
.
CHEST (PA & LAT)  ___ 10:18 ___
PA and lateral chest radiograph were reviewed with no prior 
exams available for comparison.  The patient is after median 
sternotomy and CABG. Heart size is normal. Aorta is tortuous 
with descending aorta diameter on lateral view of up to 4.2 cm. 
The upper right mediastinum is slightly dilated with a sharp 
outer contour most likely representing dilated upper mediastinal 
vessels. There is no hilar enlargement.  The left upper lung and 
the right lung are unremarkable. Linear opacities in the left 
lower lobe most likely represent areas of atelectasis/scarring, 
although superimposed infectious process cannot be excluded in 
the absence of previous studies. The pleural surfaces are smooth 
and there is no pleural effusion.
IMPRESSION:
1. Left lower lobe atelectasis/scarring with possible 
superimposed infection. Followup with chest radiograph is 
recommended for documentation of resolution.
2. Tortuous and mildly dilated aorta.
3. Status post median sternotomy and CABG.
The left atrium is normal in size. The right atrium is 
moderately dilated. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
are mildly thickened. Trace aortic regurgitation is seen. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no pericardial effusion. Compared with 
the report of the prior study (images unavailable for review) of 
___, there is no definite change but studies/reports are 
technically suboptimal for comparison.
.
EKG ___ 
Sinus rhythm with bigeminal premature atrial contractions. Poor 
R wave 
progression. No previous tracing available for comparison.  
Rate 73 PR 0 QRS 102 QT/QTc 440/462 P 0 QRS  -17 T 72
.
COLONOSCOPY ___
Impression: Diverticulosis of the cecum, descending colon and 
sigmoid colon
Polyp at 45cm in the descending colon (polypectomy)
Stool in the whole colon
Otherwise normal colonoscopy to cecum 
Recommendations: 1. Follow biopsy results
2.If polyp shows adenoma,pt needs repeat colonoscopy in one year 
due to his poor preparation. 
.
ESOPHAGOGASTRODUODENOSCOPY ___
Impression: Normal mucosa in the whole esophagus
Normal mucosa in the whole stomach
Normal mucosa in the first part of the duodenum and second part 
of the duodenum (biopsy)
Otherwise normal EGD to second part of the duodenum 
.
COLON BIOPSIES: 
DIAGNOSIS:  
Gastrointestinal mucosal specimens, two: 
A. Duodenum: 
Distorted and partially stripped small intestinal mucosa, no 
diagnostic abnormalities recognized.   
B-F. Colon polyp at 45 cm: Adenoma.
.
MICRO: 
___ 8:02 am SPUTUM      Source: Expectorated. 
GRAM STAIN (Final ___: 
>25 PMNs and <10 epithelial cells/100X field. 
2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND 
CHAINS. 
Culture pending
.

.

 

  

 
Brief Hospital Course:
#. Pneumonia: During the end of your hospitalization, Mr. ___ 
developed a fever and productive cough.  Radiograph evidence was 
suggestive of pnuemonia (see reports above).  On admission, a 
chest radiograph showed a small consolidation vs. atelectasis in 
the left lung fields which was not concerning for pneumonia at 
the time as the patient was febrile and did not have a cough.  
However, 2 days prior to discharge the patient had a low grade 
fever (100) and a productive cough.  The sputum was sent for 
culture.  Antiobiotics were started.  The patient received 2 
dosages of IV vancomycin and 1 dose of IV zosyn initially.  He 
was felt to have acquired the pnuemonia in the community due to 
radiograph evidence of consolidation on admission in the same 
location; his antiobiotics were then switched to PO levofloxacin 
and flagyl.  Gram stain showed gram positive cocci in pairs and 
chains.  Culture was pending at the time of discharge to be 
followed up at rehab, with adjustment of his antiobiotic regimen 
as needed.  The patient was afebrile upon discharge.

#. Anemia: His anemia appears to be chronic, likely anemia of 
chronic disease.  No source of gastrointestinal bleeding or 
source of malignancy on was seen on colonoscopy/EGD. Fe 
studies/B12/folate studies did not show significant deficits.  
After hydration his hematocrit seemed to stabilize between 
___.  Prior to admission, his baseline HCT seemed to be ~35.  
His anemia may be related to his failure to thrive and weight 
loss and warrants further outpatient followup as discussed with 
his PCP.
.
#. Failure to thrive: His failure to thrive and weight loss were 
likely related to  worsening dementia as colonoscopy/EGD 
negative for GI malignancy.  No GI etiology was found for his 
symptoms of early satiety and decreased appetite and they may be 
related to his dementia; further outpatient workup may be 
warranted if weight loss continues.  Behavioral neuro followup 
as outpatient was scheduled.  The patient may need repeat brain 
imaging as an outpatient.  He was transferred to rehabilitation 
for physical rehabilitation.  He will likely need assisted 
living or either intensive support services at home with meals 
and ADLs.
.
#. New atrial fibrillation on admission/? paroxysmal atrial 
fibrillation. ECHO showed moderate atrial enlargement which is 
most likely the underlying etiology of AF.  His metoprolol was 
titrated up slightly for rate control to 37.5 mg BID upon 
discharge. Gastrointestinal bleeding was ruled out as an 
etiology of atrial fibrillation as colonoscopy/EGD negative 
though the patient had a history concerning for melena.  TSH was 
within normal limits; therefore hyperthyroidism ruled as as 
etiology of atrial fibrillaion.   Discussion of anticoagulation 
was initiated with the family, patient, and PCP. The patient was 
felt not to be a good candidate for coumadin with a high fall 
risk and dementia.  HCP, ___, expressed her desire for 
the patient not to be anticoagulated.  He was continued on 
aspirin 81 mg daily for CAD and this may be increased to 325 mg 
daily as an outpatient to add increased anticoagulation 
benefits.
.
#. Adenoma on colonoscopy:
Followup with Dr. ___ has been scheduled for the patient 
as an outpatient to discuss further management.  Pathology 
returned on the day of discharge which showed that the polyp was 
an adenoma.  It is recommeded that the patient have a repeat 
colonoscopy in one year as the bowel prep was poor for this 
procedure.
.
# Hospitalization-associated delirium. Mr. ___ was 
intermittenly oriented throughout admission suggesting delirium 
most likely related to an unfamiliar enviroment with baseline 
dementia.  His pneumonia may have also contributed to his 
delirium.  His delirium required several doses of haldol for 
agitation.  However, upon discharge, Mr. ___ was alert and 
oriented to person, place, and time.
.
#. Progressive Dementia
Frontotemporal dementia with possible Alzheimer's component is 
the most likely diagnosis, although on this admission he was 
felt to have some features of ___ Disease (pill rolling 
tremors). Behavioral neurology recently evaluated the patient 
and found significant executive, attentional and probably 
attentionally memory problems with mild extrapyramidal signs and 
unimpaired language.  Outpatient followup with behavioral 
neurology has been scheduled.  Continued Aricept 10 mg PO daily 
as an inpatient.
.
#.  Coronary artery disease:  h/o 5-vessel bypass (___). 
Aspirin  81MG PO daily was continued as was beta blockade and 
statin.
.
#.  Hypertension:  Blood pressure is persistently elevated per 
note in OMR and he had some hypertensive systolic blood 
pressures on this admission.  Continued amlodipine as 
prescribed. Uptitrated lisinopril to 30 mg daily.  Uptitrated 
metoprolol to 37.5 mg daily.
.
#.  Hyperlipidemia.  Continued simvastatin.  
.
#.  PPX: Subcutaneous heparin was provided for DVT prophylaxis.

#.  Code status: Patient was DNR/DNI. This was discussed with 
him and HCP ___.

 
Medications on Admission:
1. Aricept 10 mg PO daily
2. Aspirin 81MG PO daily
3. Amlodipine 2.5 mg PO daily
4. Hydrochlorothiazide 25 mg PO daily
5. Metoprolol tartrate 25 mg PO BID
6. Simvastatin 10 mg daily 
.
 
Discharge Medications:
1. Colonoscopy
A mass called an adenoma was seen on colonoscopy.  You will need 
a repeat colonoscopy in one year to follow this mass due to poor 
preparation of your bowel for the study done during this 
hospitalization.
2. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
5. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed.  
8. Lisinopril 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
9. Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO BID (2 
times a day).  
10. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 12 days.  
11. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 12 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
Failure to thrive
Dehydration
.
Secondary diagnoses
Hypertension  
Coronary artery disease  

 
Discharge Condition:
Hemodynamically stable, afebrile

 
Discharge Instructions:
You were admitted to the hospital to evaluate your weight loss 
and gastrointestinal symptoms.  A colonoscopy and 
esophagogastroduodenoscopy (EGD) were performed.  The 
colonoscopy showed an adenoma in your large bowel.  A biopsy was 
taken of this lesion.  The EGD was unremarkable and a biopsy was 
taken from your duodenum.  Please followup with Dr. ___ 
(___) with these finding; she appointment 
scheduled below.
.
Please keep all followup appointments.
.
Please take all medications as prescribed.  Note the following 
changes in your medication regimen:
1. Two antibiotics, levofloxacin and metronidazole, have been 
prescribed to treat pneumonia.  Please continue to take the 
medications for 12 days after discharge.
2. Your lisinopril was increased to 30 mg daily to control your 
high blood pressure.
3. Your metoprolol was dosage was increased to 37.5 mg twice 
daily.
.
Please call a physician or go to an emergency room for breathing 
difficulty, fever (>101.4), chills, diarrhea, chest pain, or 
shortness of breath of any other concerning symptoms.
 
Followup Instructions:
___